US07524955B2
1-Methylguanidine hydrochloride (8.25 g), 4-Fluorobenzaldehyde (4.2 g), ethyl 4-methyl-3-oxo-pentanoate (5.0 g) and DMF (100 ml) were charged to a vessel equipped with a condenser and connected to a nitrogen line. The resultant mixture stirred until a clear solution is obtained. Sodium carbonate (4.0 g) was charged and the mixture heated to 70° C. for 2 hours. The reaction mixture was cooled to ambient temperature, filtered, and the solvents removed by evaporation under reduced pressure. The resultant oil was triturated in water at 50° C. and cooled to give a slurry that was filtered and dried to give ethyl 4-(4-fluorophenyl)-6-isopropyl-2-methylamino-1,6-dihydropyrimidine-5-carboxylate in 63% yield.

reactant | 1-Methylguanidine hydrochloride | 8.25 g | Cl.CNC(=N)N
reactant | 4-Fluorobenzaldehyde | 4.2 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ethyl 4-methyl-3-oxo-pentanoate | 5.0 g | CC(C(CC(=O)OCC)=O)C | C8H14O3
reactant | Sodium carbonate | 4.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | ethyl 4-(4-fluorophenyl)-6-isopropyl-2-methylamino-1,6-dihydropyrimidine-5-carboxylate | 63% yield | FC1=CC=C(C=C1)C=1N=C(NC(C1C(=O)OCC)C(C)C)NC | C17H22FN3O2
